US07560551B2
In a 20-mL sealed tube was dissolved 4-(2-(4-aminophenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile (0.120 g, 0.433 mmol) in t-BuOH (1.0 mL). Then 1-chloro-4-phenylphthalazine (0.104 g, 0.433 mmol) was added and the mixture was stirred at 100° C. for 3 days. The reaction was cooled to RT, concentrated and purified on a Gilson reverse phase chromatography system. The title compound was extracted into CH2Cl2, washed 1× saturated NaHCO3, 1×H2O, dried over Na2SO4, filtered through fritted funnel and concentrated. The title compound was further purified by silica gel chromatography using 10-100% EtOAc/Hexanes to afford 4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile as light yellow solid. MS m/z=482 [M+1]+. Calc'd for C29H19N7O: 481.51.

reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile | 0.433 mmol, 0.120 g | NC1=CC=C(OC2=NC=CC=C2C=2C(=NNC2)C#N)C=C1 | C15H11N5O
reactant | 1-chloro-4-phenylphthalazine | 0.433 mmol, 0.104 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | t-BuOH | 1.0 mL | CC(C)(C)O | C4H10O
product | 4-(2-(4-(4-phenylphthalazin-1-ylamino)phenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=NC=CC=C2C=2C(=NNC2)C#N)C=C1 | C29H19N7O
